US07964643B2
2′,4′-Difluoro-3-trifluoromethoxybiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (ABD-360)
Using a method analogous to that described in Example 40, 4-bromo-2-trifluoromethoxyphenyl-sulfonic acid-(4-hydroxybutyl)-amide and 2,4-difluorophenyl boronic acid were reacted to give the title compound as a white powder. δC (CDCl3, 62.9 MHz): 26.4, 29.5, 41.2, 62.1, 104.9 (t, J 26.0), 112.3 (dd, J 21.3, 2.9), 122.3 (dd, J 12.7, 3.9), 127.5, 131.3, 131.5, 131.5, 131.7 (d, J 2.0), 136.2, 140.6, 159.9 (dd, J 252.0, 11.7) and 163.3 (dd, J 252.0, 11.7).

reactant | 4-bromo-2-trifluoromethoxyphenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=C(C=C(C=C1)Br)OC(F)(F)F | C11H13BrF3NO4S
reactant | 2,4-difluorophenyl boronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 2′,4′-Difluoro-3-trifluoromethoxybiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=C(C=C(C=C1)C1=C(C=C(C=C1)F)F)OC(F)(F)F | C17H16F5NO4S
